US05962474
5-(2-quinolinoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole
Beginning with 12.0 mg (0.05 mMol) 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole and 17.0 mg (0.10 mMol) 2-quinaldic acid, 17.6 mg (92%) of the title compound were recovered.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)-1H-indole | 0.05 mMol, 12.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | 2-quinaldic acid | 0.10 mMol, 17.0 mg | C1=CC=C2C(=C1)C=CC(=N2)C(=O)O | C10H7NO2
product | 5-(2-quinolinoyl)amino-3-(1-methylpiperidin-4-yl)-1H-indole | 17.6 mg, 92% | N1=C(C=CC2=CC=CC=C12)C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C24H24N4O
